US05965745
To a solution of 4-[1-difluoromethyl-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid (1.10 grams, 2.37 mmol), 4-dimethylaminopyridine (0.44 grams, 3.63 mmol) and 1-[3-dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1,2-dichloroethane) (0.70 grams, 3.64 mmol) in methylene chloride (100 mL) was added o-tolylsulfonamide (0.41 grams, 2.42 mmol). The resulting solution was stirred for 16 hours at room temperature. The solution was diluted with methylene chloride and washed with 1 M hydrochloric acid (ag) and brine. The organics were dried over sodium sulfate and concentrated. Chromatography on silica gel (5% methanol/methylene chloride gave 4-[1-difluoromethyl-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-N-o-tolylsulfonylbenzamide (1.10 grams, 76% yield). HRMS calcd. for C31H31N3O6F2S: 611.1902. Found: 611.1924.

reactant | 4-[1-difluoromethyl-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid | 2.37 mmol, 1.10 grams | FC(N1C=C(C2=CC(=CC=C12)NC(=O)OC1CCCC1)CC1=C(C=C(C(=O)O)C=C1)OC)F | C24H24F2N2O5
reactant | 3-ethylcarbodiimide hydrochloride | 3.64 mmol, 0.70 grams | Cl.C(C)N=C=N
reactant | o-tolylsulfonamide | 2.42 mmol, 0.41 grams | C1(=C(C=CC=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | methanol methylene chloride | CO.C(Cl)Cl
catalyst | 4-dimethylaminopyridine | 3.63 mmol, 0.44 grams | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-difluoromethyl-5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-N-o-tolylsulfonylbenzamide | 1.10 grams, 76% yield | FC(N1C=C(C2=CC(=CC=C12)NC(=O)OC1CCCC1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC)F | C31H31F2N3O6S
